US07713982B2
c) 1,3-dibutyl-2,6-dioxo-7-(2-propen-1-yl)-2,3,6,7-tetrahydro-1H-purine-8-carboxylic acid
A stirred solution of methyl 1,3-dibutyl-2,6-dioxo-7-(2-propen-1-yl)-2,3,6,7-tetrahydro-1H-purine-8-carboxylate (1.30 g, 3.6 mmol) in MeOH (15 ml) was treated with LiOH (215 mg) and water (1.5 ml). After 3 hours at rt the mixture was diluted with water and the pH adjusted to ca. pH5 with 2M HCl(aq). EtOAc was added and then separated, washed with brine, dried (MgSO4) and concentrated to afford the title compound as a yellow solid 85% pure (1.2 g, 88%). m/z. 349.2[MH+].

reactant | methyl 1,3-dibutyl-2,6-dioxo-7-(2-propen-1-yl)-2,3,6,7-tetrahydro-1H-purine-8-carboxylate | 3.6 mmol, 1.30 g | C(CCC)N1C(N(C=2N=C(N(C2C1=O)CC=C)C(=O)OC)CCCC)=O | C18H26N4O4
reactant | LiOH | 215 mg | [Li+].[OH-]
reactant | HCl | 2M | Cl | ClH
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | MeOH | 15 ml | CO | CH4O
solvent | water | O | H2O
solvent | water | 1.5 ml | O | H2O
product | 1,3-dibutyl-2,6-dioxo-7-(2-propen-1-yl)-2,3,6,7-tetrahydro-1H-purine-8-carboxylic acid | 85% | C(CCC)N1C(N(C=2N=C(N(C2C1=O)CC=C)C(=O)O)CCCC)=O | C17H24N4O4
